US07183306B2
To a solution of (2-{4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine hydrochloride (150 mg) and triethylamine (121 mg) in CH2Cl2 (3 ml) was added trifluoromethanesulfonic anhydride (113 mg). The mixture was stirred at ambient temperature for 2 hours. Additional triethylamine (92 mg) was added and stirring at ambient temperature was continued for 4 hours. The mixture was concentrated in vacuo. The residue was partitioned between AcOEt and 1M HCl. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=50% to give 1,1,1-trifluoro-N-(2-{4-[3-methoxy-1-(4-methoxy-phenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methane-sulfonamide (109 mg) as an oil.

reactant | (2-{4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine hydrochloride | 150 mg | Cl.COC1=NN(C(=C1)C1=CC=C(OCCN)C=C1)C1=CC=C(C=C1)OC
reactant | triethylamine | 121 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 113 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 92 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-trifluoro-N-(2-{4-[3-methoxy-1-(4-methoxy-phenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methane-sulfonamide | 109 mg | FC(S(=O)(=O)NCCOC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)OC)(F)F | C20H20F3N3O5S
